US08871774B2
Formation N-((1R,3S)-3-(2-chloro-5-fluoropyrimidin-4-ylamino)cyclohexyl)-pyrrolidine-1-carboxamide (21)
A solution of (1R,3S)-3-(2-chloro-5-fluoropyrimidin-4-ylamino)cyclohexane-carboxylic acid, 20, (8.2 g, 30.0 mmol), (azido(phenoxy)phosphoryl)oxybenzene (9.7 mL, 45.0 mmol) and triethylamine (5.8 mL, 42.0 mmol) in THF (200 mL) was degassed under nitrogen for 15 minutes. The reaction mixture was heated at 85° C. for 30 minutes. To the reaction mixture was added pyrrolidine (7.5 mL, 90.0 mmol) and the reaction was heated at 85° C. for an additional 15 min. The mixture was diluted into brine and extracted with EtOAc. The organic phase was separated, dried over MgSO4. The product was isolated (6.25 g) by filtration after partial removal of solvent in vacuo: 1H NMR (300 MHz, CDCl3) δ 7.87 (d, J=2.8 Hz, 2H), 5.04 (d, J=8.1 Hz, 2H), 4.09 (ddd, J=26.9, 13.4, 5.6 Hz, 4H), 3.91-3.71 (m, 2H), 3.32 (t, J=6.5 Hz, 7H), 2.45 (d, J=11.5 Hz, 2H), 2.08 (dd, J=22.1, 12.0 Hz, 4H), 1.96-1.82 (m, 9H), 1.54 (dd, J=18.6, 8.5 Hz, 2H), 1.22-1.01 (m, 6H).

reactant | (1R,3S)-3-(2-chloro-5-fluoropyrimidin-4-ylamino)cyclohexane-carboxylic acid | ClC1=NC=C(C(=N1)N[C@@H]1C[C@@H](CCC1)C(=O)O)F | C11H13ClFN3O2
reactant | (azido(phenoxy)phosphoryl)oxybenzene | 30.0 mmol, 9.7 mL, 8.2 g | N(=[N+]=[N-])P(=O)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C12H10N3O3P
reactant | triethylamine | 42.0 mmol, 5.8 mL | C(C)N(CC)CC | C6H15N
reactant | pyrrolidine | 90.0 mmol, 7.5 mL | N1CCCC1 | C4H9N
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | N-((1R,3S)-3-(2-chloro-5-fluoropyrimidin-4-ylamino)cyclohexyl)-pyrrolidine-1-carboxamide | ClC1=NC=C(C(=N1)N[C@@H]1C[C@@H](CCC1)NC(=O)N1CCCC1)F | C15H21ClFN5O
